US04743611
Step (a) Preparation of 6-Methoxy-5-(trifluoromethyl)-1-naphthalene amine.
6-Methoxy-5-(trifluoromethyl)-1-naphthalenecarboxylic acid (30.0 g, 1.11×10-1M) was stirred in thionyl chloride (120 mL) at 20° C. under nitrogen. Dimethylformamide (0.75 mL, anhydrous) was added, and the mixture was refluxed for 4 hours. The solvent and excess of thionyl chloride were evaporated under reduced pressure. Toluene (200 mL) was added, the solvent re-evaporated and the residual solid was dried (20° C./0.1 mm). The white solid was dissolved in acetone (300 mL), cooled to 0° C. and a solution of sodium azide (7.8 g, 1.19×10-1M) in water (25 mL) was added dropwise (precipitate formation). The mixture was stirred at 0° C. for 30 minutes, diluted to 600 mL volume with water, stirred for 1 hour at 0° C., filtered, and the filtered solid was washed with water (2×200 mL). The damp solid (Any azides are generally unsafe to handle.) was dissolved in toluene (400 mL), and the filtrate concentrated to 280 mL under reduced pressure, refluxed for 1 hour, then cooled to 20° C. Potassium hydroxide (40% aq, 200 mL) was added. The resultant mixture was refluxed for 1 hour, cooled to 30° C., and filtered. The filtered solid (This solid is an unwanted side product. Care should be taken to avoid precipitation of the desired product from toluene during filtration.) was washed with water (200 mL), and toluene (200 mL). The filtrate and washings were combined. The organic layer was separated, washed with water (200 mL), dried (MgSO4), filtered, and solvent evaporated to furnish the product (19.0 g, 84%) m.p. 120° C. as a white powder.

reactant | 6-Methoxy-5-(trifluoromethyl)-1-naphthalenecarboxylic acid | 1.11×10-1M, 30.0 g | COC=1C(=C2C=CC=C(C2=CC1)C(=O)O)C(F)(F)F | C13H9F3O3
reactant | Dimethylformamide | 0.75 mL | CN(C=O)C | C3H7NO
solvent | thionyl chloride | 120 mL | S(=O)(Cl)Cl | Cl2OS
product | 6-Methoxy-5-(trifluoromethyl)-1-naphthalene amine | 19.0 g, 84% | COC=1C(=C2C=CC=C(C2=CC1)N)C(F)(F)F | C12H10F3NO
